data/oMe_Silver.jsonl
{"reaction_id": "NR-338_1-C_2-c1ccc(F)cc1_3-C_4-C_5-c1cc(Cl)cc(c1)","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(c1ccc(F)cc1)C)(C)O[Si](C)(C)C","O=C(OO)c1cc(Cl)cc(c1)"],"products_smiles": ["C(=O)(C(O[Si](C)(C)C)(c1ccc(F)cc1)C)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](C)(C)C)(C)C(c1ccc(F)cc1)(C)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](C)(C)C)(C)C([O-])(c1ccc(F)cc1)C","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](C)(C)C)(c1ccc(F)cc1)C)C","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
{"reaction_id": "NR-210_1-c2ccc(C)cc2_2-CCCC_3-c2ccc(F)cc2","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(c2ccc(C)cc2)","O(C(CCCC)(c2ccc(F)cc2))"],"products_smiles": ["O=C(CCCC)c2ccc(F)cc2"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](c2ccc(C)cc2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](c2ccc(C)cc2)(O([S](=O)(=O)[O-]))O(C(CCCC)(c2ccc(F)cc2)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](c2ccc(C)cc2)(=C)O(C(CCCC)(c2ccc(F)cc2))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(CCCC)c2ccc(F)cc2","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
